US05112837
Ethyl 6-methyl-4-quinolone-2-carboxylate (6.8 g, itself prepared from p-toluidine and diethyl acetylenedicarboxylate according to the general procedure outlined in J. Med. Chem., 1968, 11. 1218), phosphorus oxychloride (2.2 ml), N,N-dimethylaniline (7.46 ml) and toluene (80 ml) were heated together for 3 hours at 90° C. and cooled to laboratory temperature. The mixture was poured into a mixture of ice and water (100 ml) and extracted with chloroform (4×100 ml). The combined extracts were evaporated and the resulting oil was purified by chromatography on a silica gel column using a 1:4 v/v mixture of ethyl acetate and petroleum ether (b.p. 60°-80° C.) as eluent. There was thus obtained as an oil ethyl 4-chloro-6-methylquinoline-2-carboxylate (4.2 g). A mixture of a portion (3.5 g) of this product and ethanol (80 ml) was stirred at laboratory temperature and an aqueous N sodium hydroxide solution was added. After stirring for 2 hours the mixture was carefully acidified to pH 2 by adding aqueous 2N hydrochloric acid solution. The precipitated solid was filtered off, washed with water and with ether and dried to leave 4-chloro-6-methylquinoline-2-carboxylic acid as an off-white solid (2.65 g). A mixture of a portion (1 g) of this product and thionyl chloride (10 ml) was gently heated at 80° C. for 1.5 hours and the excess of thionyl chloride was evaporated. The residue was dissolved in dry acetonitrile (25 ml) and added dropwise to an aqueous solution of ammonia (specific gravity 0.880, 25 ml). After stirring at room temperature for 1 hour the white precipitate was filtered off, washed with water and dried in air to leave 4-chloro-6-methylquinoline-2-carboxamide as an off-white powder (0.8 g) which was used without further purification.

reactant | Ethyl 6-methyl-4-quinolone-2-carboxylate | CC=1C=C2C(CC(=NC2=CC1)C(=O)OCC)=O | C13H13NO3
reactant | p-toluidine | NC1=CC=C(C=C1)C | C7H9N
reactant | diethyl acetylenedicarboxylate | C(#CC(=O)OCC)C(=O)OCC | C8H10O4
reactant | phosphorus oxychloride | 2.2 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 7.46 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | water | 100 ml | O | H2O
solvent | toluene | 80 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl 4-chloro-6-methylquinoline-2-carboxylate | 4.2 g | ClC1=CC(=NC2=CC=C(C=C12)C)C(=O)OCC | C13H12ClNO2
